US08791129B2
2-[2-Amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl 2-dimethylaminoethyl carboxylate (“A120”)
200 mg of 1,1′-carbonyldiimidazole are dissolved in 10 ml of pyridine and cooled to 0° C. A solution of 500 mg of [2-amino-6-(4,5-difluoro-2-hydroxymethylphenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone dissolved in 10 ml of pyridine is added. The mixture is subsequently stirred at 0° C. for 2 h and at 25° C. for 2 h. 200 mg of 2-(dimethylamino)ethanol and 200 μl of 1,8-diazabicyclo[5.4.0]undec-7-ene are then added, and the mixture is stirred at 25° C. for a further 18 h. The mixture is added to 250 ml of 1 N HCl, neutralised using bicarbonate solution and washed 3 times with 150 ml of dichloromethane each time. The organic phases are washed twice with 50 ml of water each time, dried over sodium sulfate, filtered and evaporated to dryness in vacuo. The residue is dissolved in 1 ml of dimethyl sulfoxide and purified by chromatography (reversed phase).

reactant | 1,1′-carbonyldiimidazole | 200 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | [2-amino-6-(4,5-difluoro-2-hydroxymethylphenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone | 500 mg | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(C=C(C(=C1)F)F)CO | C24H18F2N4O2
reactant | 2-(dimethylamino)ethanol | 200 mg | CN(CCO)C | C4H11NO
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 200 μl | N12CCCCCC2=NCCC1 | C9H16N2
reactant | HCl | 1 N, 250 ml | Cl | ClH
reactant | bicarbonate | C([O-])(O)=O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-[2-Amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl 2-dimethylaminoethyl carboxylate | CN(CCC(=O)OCC1=C(C=C(C(=C1)F)F)C=1C=C2C(=NC(=NC2=CC1)N)C(=O)N1CC2=CC=CC=C2C1)C | C29H27F2N5O3
